Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ past medical history significant for epilepsy, 
hypothyroidism, presenting to the emergency department of 2 days 
of generalized weakness, nausea, emesis, and vertigo symptoms.  
 Patient last had seizure 1 month ago. Therefore, outpatient 
neurologist at ___ increased her lamictal dose 4 days ago 
(___) from 200->250 and on ___ morning she woke up 
having intense room spinning sensation that lasted the entire 
day. Patient misinterpreted and took additional 250mg to her 
regular 200mg of lamictal. She stated that she could not sit up 
for long period of time and was unable to hydrate, obtain foods, 
or even go to the restroom, but this eventually improved. 
However, today she woke up again feeling nausea, 
hyperventilating, and having room spinning sensation. Patient's 
daughters brought her to ___ where she was evaluated 
and transferred here for further neuro workup. Patient denies 
any shortness of breath, chest pain, current room spinning 
sensation, headache, fevers, chills, vomiting, diarrhea, 
constipation. Patient also denies new numbness, weakness, 
tingling. Patient endorses nausea.  
 Labs at ___:  
 Labs remarkable for a K of 3.1, sugar of 133, bicarbonate 26, 
creatinine 1.0  
 Patient has a normal white count  
 Patient has a negative urinalysis  
 Patient had a negative troponin  
 
 In the ED, initial VS were:  
 97.3 88 114/75 14 98% RA  
 Exam notable for:  
 Neuro: Cranial nerves II -XII intact, 5 out of 5 strength 
bilaterally upper and lower extremities, full sensation 
bilaterally, no dysmetria, no dysdiadochokinesia, negative 
Romberg, normal gait  
 
 Labs showed:  
 ___  
 ----------< 171  
 3.9 28 0.9  
 AST wnl  
 Serum tox neg  
 Trop neg  
 Carbamazepine 6.6  
 Imaging showed:  
 Noncontrast CT: No acute intracranial abnormalities. Asymmetric 
prominence of the left frontal subdural space with low-density 
material likely represents chronic subdural hematoma or a 
subdural hygroma (02:18).  
 CTA: The V3 segments of the vertebral arteries are obscured by 
dental amalgam. Within these limitations: No evidence of 
dissection,  
 
 Patient received: Tylenol ___  
 
 Neurology was consulted:  
 Initially recommended CTA Head/neck. Later, suspect ___ 
medication toxicity, found out pt took 450mg of lamictal all at 
once on ___. She thought that is what her neurologist wanted. 
At this time high suspicion for medication toxicity causing 
symptoms. Unlikely that this represents TIA/stroke.  
 Pending CTA should go to medicine for medication toxicity.  
 Transfer VS were: 98.6 72 114/63 16 97% RA  
 On arrival to the floor, patient reports that her symptoms are 
minimal currently. No vertigo, nausea, vomitting. Only complains 
of some generalized weakness. She denies any fevers, chills, 
weight change, night sweats, chest pain, dyspnea, abdominal 
pain, diarrhea, constipation, dysuria.  

 
Past Medical History:
Epilepsy  
 Insomnia (on melatonin)  
 Thyroid cancer s/p partial thyroid resection ___  
 ?MI - occurred in ___ in setting of seizures, found to have 
lateral STD on EKG and elevated troponins, which resolved. 
Cardiac cath revealed nonobstructive CAD. Meds adjusted to 
patient only on ASA 81mg.
 
Social History:
___
Family History:
 2 brothers died from alcoholism.  
 Father - alcohol ism, diabetes, passed away from subdural 
hematoma  
 Daughter - febrile seizures 
 
Physical Exam:
ADMISSION EXAM
===================
VS: 98.7 140/75 76 18 96% RA  
 GENERAL: well appearing in no acute distress  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera. No nystagmus. MMM  

 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: soft, nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
 EXTREMITIES: no cyanosis, clubbing, or edema  
 NEURO: A&Ox3, ___ strength in all extremities. Stable gait.  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE EXAM
=====================
VS: reviewed in POE  
 GENERAL: well appearing in no acute distress  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera. No nystagmus. MMM  

 NECK: supple, no LAD, no JVD  
 HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
 LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: soft, nondistended, nontender 
 EXTREMITIES: no cyanosis, clubbing, or edema  
 NEURO: A&Ox3, ___ strength in all extremities. Stable gait.  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS
==================
___ 08:22PM   WBC-13.0* RBC-4.82 HGB-13.9 HCT-42.1 MCV-87 
MCH-28.8 MCHC-33.0 RDW-13.2 RDWSD-42.5
___ 08:22PM   NEUTS-81.9* LYMPHS-11.2* MONOS-6.0 EOS-0.0* 
BASOS-0.4 IM ___ AbsNeut-10.63* AbsLymp-1.45 AbsMono-0.78 
AbsEos-0.00* AbsBaso-0.05
___ 08:22PM   PLT COUNT-424*
___ 08:22PM   ___ PTT-28.3 ___
___ 08:22PM   ASA-NEG ETHANOL-NEG CARBAMZPN-6.6 
ACETMNPHN-NEG bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:22PM   TRIGLYCER-42 HDL CHOL-67 CHOL/HDL-3.1 
LDL(CALC)-130*
___ 08:22PM   %HbA1c-5.7 eAG-117
___ 08:22PM   ALBUMIN-4.5 CHOLEST-205*
___ 08:22PM   cTropnT-<0.01
___ 08:22PM   ALT(SGPT)-21 AST(SGOT)-22 ALK PHOS-155* TOT 
BILI-0.3
___ 08:22PM   GLUCOSE-171* UREA N-11 CREAT-0.9 SODIUM-137 
POTASSIUM-3.9 CHLORIDE-93* TOTAL CO2-28 ANION GAP-16
___ 02:40AM   CARBAMZPN-5.9

MICROBIOLOGY
================
NONE

IMAGING/STUDIES
================
CTA HEAD IMPRESSION: 
1. No large infarct, intracranial hemorrhage, or mass effect. 
2. Infundibular origin of the right meningohypophyseal trunk 
versus a 2 mm 
aneurysm. 
3. Minimal intracranial atherosclerosis, without stenosis. 
4. Minimal extracranial atherosclerosis, without stenosis by 
NASCET criteria.  No findings to suggest dissection. 

 
Brief Hospital Course:
___ past medical history significant for epilepsy, 
hypothyroidism, presenting to the emergency department of 2 days 
of generalized weakness, nausea, emesis, and vertigo symptoms 
felt secondary to lamictal toxicity. 

 #Lamotrigine Toxicity: Patient presented with acute onset of 
vertigo, nausea, weakness in setting of recent uptitration of 
lamictal. Neurology was consulted in the ED, and symptoms felt 
consistent with lamictal toxicity. After further investigation, 
patient saw her outpatient neurologist a few days prior to 
presentation where he increased her lamotrigine from 200mg PO 
BID to ___ PO BID. Patient misunderstood medication change and 
took both a 200mg and 250mg tablet of lamotrigine for a total of 
450mg. CT head unremarkable and CTA head with patent vessels, 
and therefore symptoms unlikely to be stroke/TIA. No other 
recent medication changes. No abdominal pain, fevers/chills 
concerning for an infectious source of her nausea/vomiting. 
After initially holding all lamotrigine, patient's symptoms 
resolved by hospital day 1. Patient was tolerating a regular 
diet. Patient was restarted on her previous dose of lamotrigine 
200mg BID that she was known to tolerate. She was discharged 
with outpatient neurology follow up in 1 week. 

 #Epilepsy: On carbamazepine and lamotrigine at home. Has 
history of difficult to control seizures, has had multiple GTC's 
and recent uptitration of AEDs. Has been trialed on multiple 
AEDs in the past. Outpatient neurologist is Dr. ___ in 
___. Per patient, last seizure approximately 1 month 
ago. No seizure activity while inpatient. Patient continued on 
home carbamazepine and discharged at previous dose of 
lamotrigine. 

 #Hypothyroidism and thyroid cancer s/p partial resection: 
continued home levothyroxine. 

 #GERD: continued home ranitidine. 

TRANSITIONAL ISSUES
=====================
[] Discharged on previously tolerated dose of lamotrigine 200mg 
PO BID. 
[] Consider uptitration to lamotrigine 250mg PO BID as 
originally intended. (Patient very hesitant to try increased 
dose given toxicity).
[] Consider home ___ services for medication education given 
confusion with anti-epileptic med management
[] Follow up lamotrigine level (drawn on admission ___

CONTACT: 
Next of Kin: ___ Relationship: DAUGHTER 
Phone: ___ Other Phone: ___ ___ past medical 
history significant for epilepsy, hypothyroidism, presenting to 
the emergency department of 2 days of generalized weakness, 
nausea, emesis, and vertigo symptoms felt secondary to lamictal 
toxicity. 

 #Lamotrigine Toxicity: Patient presented with acute onset of 
vertigo, nausea, weakness in setting of recent uptitration of 
lamictal. Neurology was consulted in the ED, and symptoms felt 
consistent with lamictal toxicity. After further investigation, 
patient saw her outpatient neurologist a few days prior to 
presentation where he increased her lamotrigine from 200mg PO 
BID to ___ PO BID. Patient misunderstood medication change and 
took both a 200mg and 250mg tablet of lamotrigine for a total of 
450mg. CT head unremarkable and CTA head with patent vessels, 
and therefore symptoms unlikely to be stroke/TIA. No other 
recent medication changes. No abdominal pain, fevers/chills 
concerning for an infectious source of her nausea/vomiting. 
After initially holding all lamotrigine, patient's symptoms 
resolved by hospital day 1. Patient was tolerating a regular 
diet. Patient was restarted on her previous dose of lamotrigine 
200mg BID that she was known to tolerate. She was discharged 
with outpatient neurology follow up in 1 week. 

 #Epilepsy: On carbamazepine and lamotrigine at home. Has 
history of difficult to control seizures, has had multiple GTC's 
and recent uptitration of AEDs. Has been trialed on multiple 
AEDs in the past. Outpatient neurologist is Dr. ___ in 
___. Per patient, last seizure approximately 1 month 
ago. No seizure activity while inpatient. Patient continued on 
home carbamazepine and discharged at previous dose of 
lamotrigine. 

 #Hypothyroidism and thyroid cancer s/p partial resection: 
continued home levothyroxine. 

 #GERD: continued home ranitidine. 

TRANSITIONAL ISSUES
=====================
[] Discharged on previously tolerated dose of lamotrigine 200mg 
PO BID. 
[] Consider uptitration to lamotrigine 250mg PO BID as 
originally intended. (Patient very hesitant to try increased 
dose given toxicity).
[] Consider home ___ services for medication education given 
confusion with anti-epileptic med management
[] Follow up lamotrigine level (drawn on admission ___

CONTACT: 
Next of Kin: ___ Relationship: DAUGHTER 
Phone: ___ Other Phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbamazepine (Extended-Release) 400 mg PO DAILY 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Ranitidine 150 mg PO DAILY:PRN heartburn 
4. LamoTRIgine 250 mg PO BID 

 
Discharge Medications:
1.  LamoTRIgine 200 mg PO BID  
2.  Carbamazepine (Extended-Release) 400 mg PO DAILY  
3.  Levothyroxine Sodium 100 mcg PO DAILY  
4.  Ranitidine 150 mg PO DAILY:PRN heartburn  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
Lamotrigine Toxicity

Secondary Diagnosis: 
Epilepsy 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___.

WHY YOU WERE ADMITTED TO THE HOSPITAL:
======================================
- You felt like the room was spinning and were vomiting. We 
think this was because you took too much of your lamotrigine 
(seizure medicine) after your neurologist increased your dose. 

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:
==============================================
- You did not take your lamotrigine and your symptoms improved. 
- You were seen by our neurology team. 
- You restarted your lamotrigine at your old dose that did not 
make you sick. 

WHAT YOU NEED TO DO WHEN YOU GO HOME:
=====================================
- Please continue taking all of your medications as prescribed. 
- Your lamotrigine dose was decreased back to 200mg twice daily. 

- Please be sure to go to your follow up appointments (listed 
below).
- Call your neurologist if you have any seizure symptoms. 

We wish you the best!

Sincerely, 
Your ___ Care Team
 
Followup Instructions:
___